US07939550B2
4-nitro-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester
340 mg (1.99 mM) of 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester was dissolved in 4 ml of N,N-dimethylformamide, to which 0.33 ml (2.19 mM) of iodomethane and 1.3 g (3.98 mM) of cesium carbonate were added dropwise, and the resulting mixture was stirred under a nitrogen atmosphere for 30 minutes. The solvent was distilled off under reduced pressure, and the resultant was extracted with ethyl acetate and brine. The organic solvent layer was dried over anhydrous sodium sulfate, filtered, and then distilled under reduced pressure. The resulting impure compound was purified by column chromatography (hexane:ethyl acetate=2:1), to obtain 195 mg (53%) of the title compound and 110 mg (30%) of the compound of Preparative Example 13.

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 1.99 mM, 340 mg | COC(=O)C1=NNC=C1[N+](=O)[O-] | C5H5N3O4
reactant | cesium carbonate | 3.98 mM, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | iodomethane | 2.19 mM, 0.33 ml | IC | CH3I
product | 4-nitro-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 195 mg, 53% | COC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H7N3O4
